US08809525B2
6-(3-Chlorophenyl)-5-phenyl-1,2,4-triazin-3-amine (110 mg, 49%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.21 g, 0.80 mmol) and 3-chlorophenylboronic acid (0.12 g, 0.80 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 0.80 mmol, 0.21 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-chlorophenylboronic acid | 0.80 mmol, 0.12 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 6-(3-Chlorophenyl)-5-phenyl-1,2,4-triazin-3-amine | 110 mg, 49% | ClC=1C=C(C=CC1)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C15H11ClN4
